US05880162
Methyl 4-(4-chlorophenyl)-4-cyclopropyl-2-fluorobut-2-enoate prepared as described in Example 1 (0.91 g) in dry diethyl ether (20 ml) was added dropwise to a stirred suspension of lithium aluminium hydride (0.34 g) in dry diethyl ether (25 ml) at 0° C. Stirring was continued during 40 minutes, while the mixture warmed to room temperature. Water (4 ml) was added, and the mixture was extracted with diethyl ether (3×20 ml). The combined organic layers were washed with water (3×10 ml), dried and evaporated under reduced pressure. The residual oil was chromatographed on silica gel using diethyl ether/hexane (2:3) to yield 4-(4-chlorophenyl)-4-cyclopropyl-2-fluorobut-2-enol (0.61 g, 78%).

reactant | Methyl 4-(4-chlorophenyl)-4-cyclopropyl-2-fluorobut-2-enoate | ClC1=CC=C(C=C1)C(C=C(C(=O)OC)F)C1CC1 | C14H14ClFO2
reactant | lithium aluminium hydride | 0.34 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 4 ml | O | H2O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
product | 4-(4-chlorophenyl)-4-cyclopropyl-2-fluorobut-2-enol | 0.61 g, 78% | ClC1=CC=C(C=C1)C(C=C(CO)F)C1CC1 | C13H14ClFO
